US04621084
6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (2.1 g) was prepared in the substantially same manner as that of Example 4 from 6-(2-bromopropionyl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (3.14 g) and 2-aminopyridine (2.85 g).

reactant | 6-(2-bromopropionyl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 3.14 g | BrC(C(=O)C=1C=CC2=C(N(C(CS2)=O)C)C1)C | C12H12BrNO2S
reactant | 2-aminopyridine | 2.85 g | NC1=NC=CC=C1 | C5H6N2
product | 6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 2.1 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(N(C(CS1)=O)C)C2 | C17H15N3OS
